US04571396
7-(2,5-Diazabicyclo[2.2.2]oct-2-yl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A solution of 0.52 g (2.0 mmole) of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.37 g (2.0 mmole) of 2,5-diazabicyclo(2.2.2)octane dihydrochloride [P. A. Sturm et al., J. Med. Chem., 17, 481 (1974)], 0.90 ml (6.0 mmole) of 1,8-diazabicyclo[5.4.0]undec-7-ene and 25 ml of acetonitrile was heated under reflux for 21 hours. The reaction mixture was filtered and the filtrate was evaporated to dryness. The residue was recrystallized from ethanol to give 0.30 g of the title compound, mp 270°-272°.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.0 mmole, 0.52 g | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | 2,5-diazabicyclo(2.2.2)octane dihydrochloride | 2.0 mmole, 0.37 g | Cl.Cl.C12NCC(NC1)CC2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 6.0 mmole, 0.90 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 7-(2,5-Diazabicyclo[2.2.2]oct-2-yl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.30 g | C12N(CC(NC1)CC2)C2=C(C=C1C(C(=CN(C1=C2)CC)C(=O)O)=O)F | C18H20FN3O3
